US04447434
(c) 5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)-carbonyl]-11H-dibenzo[b,e][1,4]-diazepin-11-one-hemihydrate
2.3 g (0.005 mol) of 5,10-dihydro-5-[(4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one methoiodide were suspended in 200 ml of methanol and at 0° C. 0.25 g (0.006 mol) of sodium borohydride were added in batches. The mixture was stirred for a further hour in the ice bath. It was then stirred into 1 liter of ice-cold water and extracted exhaustively with methylene chloride. The combined extracts were washed with water, dried over sodium sulphate and concentrated by evaporation in vacuo. After recrystallization from diisopropylether/methanol, the colorless crystals melted at 233°-234° C.

reactant | 5,10-dihydro-5-[(4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.005 mol, 2.3 g | N1=CC=C(C=C1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C19H13N3O2
reactant | sodium borohydride | 0.006 mol, 0.25 g | [BH4-].[Na+]
reactant | methanol | 200 ml | CO | CH4O
product | 5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)-carbonyl]-11H-dibenzo[b,e][1,4]-diazepin-11-one-hemihydrate | O.CN1CC=C(CC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2.CN2CC=C(CC2)C(=O)N2C3=C(NC(C1=C2C=CC=C1)=O)C=CC=C3 | InChI=1S/2C20H19N3O2.H2O/c2*1-22-12-10-14(11-13-22)20(25)23-17-8-4-2-6-15(17)19(24)21-16-7-3-5-9-18(16)23;/h2*2-10H,11-13H2,1H3,(H,21,24);1H2
